US05270313
A solution of 0.046 g of Na in 1.5 ml of absolute ethylene glycol was treated with 0.216 g of N-[6-chloro-5-(p-chloro-phenyl)-4-pyrimidinyl]-α,α,α-trifluoro-p-toluenesulfonamide with the exclusion of moisture and heated at 100° C. for 3 hours, thereafter cooled to room temperature and treated with 2.3 ml of 1N HCl. The mixture was taken up in ethyl acetate, the organic extracts were washed with water, dried and evaporated under reduced pressure. The precipitate remaining behind was recrystallized from CH2Cl2, isopropyl ether and n-hexane and yielded N-[5-(p-chlorophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-α,α,α-trifluoro-p-toluenesulfonamide, melting point 160°-162° C.

reactant | N-[6-chloro-5-(p-chloro-phenyl)-4-pyrimidinyl]-α,α,α-trifluoro-p-toluenesulfonamide | 0.216 g | ClC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)Cl | C17H10Cl2F3N3O2S
reactant | HCl | 1N, 2.3 ml | Cl | ClH
reactant | ethylene glycol | 1.5 ml | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-(p-chlorophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-α,α,α-trifluoro-p-toluenesulfonamide | ClC1=CC=C(C=C1)C=1C(=NC=NC1OCCO)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C19H15ClF3N3O4S
